* C:\users\ioe\Documents\LTspiceXVII\EEG\filter_design.asc
XU1 0 N008 V+ V- N002 LT1001
R1 N002 N008 233k
C1 N008 N001 160n
C2 N002 N001 91n
R2 N001 N007 23.7k
XU2 0 N009 V+ V- N004 LT1001
R3 N004 N009 475k
C3 N009 N003 68n
C4 N004 N003 68n
R4 N003 N002 36.1k
XU3 0 N010 V+ V- N006 LT1001
R5 N006 N010 559k
C5 N010 N005 100n
C6 N006 N005 100n
R6 N005 N004 42.4k
R7 N003 0 51.8k
R8 N005 0 60.9k
V1 N007 0 SINE(0 1 1k) AC 1
V2 0 V- 12
V3 V+ 0 12
XU4 0 N018 V+ V- N012 LT1001
R§220k+10k N012 N018 230k
R10 N011 N017 22k
XU5 0 N019 V+ V- N014 LT1001
R11 N014 N019 470k
R12 N013 N012 33k
XU6 0 N020 V+ V- N016 LT1001
R§470k+68k+10k N016 N020 548k
C11 N020 N015 100n
C12 N016 N015 100n
R§33+10 N015 N014 43k
R§47k+10k+3.3k N015 0 60.3k
V4 N017 0 SINE(0 1 1k) AC 1
C8 N012 N011 47n
C13 N012 N011 47n
C7 N018 N011 100n
C14 N018 N011 47n
C15 N018 N011 22n
C10 N014 N013 47n
C16 N014 N013 22n
C9 N019 N013 47n
C17 N019 N013 22n
R15 N013 P001 47k
R17 P001 0 4k7
R9 N022 N028 230k
R13 N021 N027 22k
R14 N024 N029 470k
R16 N023 N022 33k
R18 N026 N030 548k
C18 N030 N025 100n
C19 N026 N025 100n
R19 N025 N024 43k
R20 N025 0 60.3k
V5 N027 0 SINE(0 1 1k) AC 1
C20 N022 N021 47n
C21 N022 N021 47n
C22 N028 N021 100n
C23 N028 N021 47n
C24 N028 N021 22n
C25 N024 N023 47n
C26 N024 N023 22n
C27 N029 N023 47n
C28 N029 N023 22n
R21 N023 P002 47k
R22 P002 0 4k7
XU7 0 N028 V+ V- N022 LM741
XU8 0 N029 V+ V- N024 LM741
XU9 0 N030 V+ V- N026 LM741
.ac dec 100 1 1k
* 6th Order Buterworth Bessel 0.45 generated by web tool
* 6th Order Buterworth Bessel 0.45 using standard resistor capacitor values
.include lib/sub/lm741.lib
.lib LTC.lib
.backanno
.end
